US03957787
B. 3-(2-Bromo-5-(methylthio)phenyl)-1-propanol
To a suspension of 25.0 g of magnesium ribbon in a solution of 0.5 g of iodine in 550 ml of anhydrous ether is added 5 ml of a solution of 296.0 g of 2-bromo-5-(methylthio)benzyl bromide in 250 ml of anhydrous ether. The reaction is initiated by gentle heating, and the remainder of the solution is then added dropwise so as to maintain a reflux. Subsequently, the mixture is heated and stirred under reflux for one hour, and then cooled to 10°. A stream of nitrogen gas that has been bubbled through a reservoir containing 48.0 g of ethylene oxide is introduced into the reaction mixture. The addition of the ethylene oxide requires two hours. The mixture is subsequently stirred as it warms to room temperature, is stirred for four hours at room temperature, and then hydrolyzed by pouring on a mixture of 1 kg of ice and 55.0 g of ammonium chloride. Extraction with ether, followed by conventional workup of the ether solution, yield 210.0 g of 3-(2 -bromo-5-(methylthio)phenyl)-1-propanol, bp, about 125°-127° (0.6mm).

reactant | magnesium ribbon | 25.0 g | [Mg] | Mg
reactant | iodine | 0.5 g | II | I2
reactant | 2-bromo-5-(methylthio)benzyl bromide | 296.0 g | BrC1=C(CBr)C=C(C=C1)SC | C8H8Br2S
reactant | ether | 550 ml | CCOCC | C4H10O
reactant | ether | 250 ml | CCOCC | C4H10O
product | 3-(2-Bromo-5-(methylthio)phenyl)-1-propanol | BrC1=C(C=C(C=C1)SC)CCCO | C10H13BrOS
